US07855216B2
Step 2: 3-(2-Fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-hydroxy-ethoxy)-amide
A mixture of 3-(2-fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide (64 mg, 0.13 mmol), 1N aqueous HCl (0.39 mL) and MeOH (4.0 ml) was stirred at room temperature for 20 hours. Sodium hydrogen carbonate (32 mg, 0.39 mmol) was added, stirring was continued for 10 minutes then the reaction mixture was concentrated under reduced pressure. The residue was absorbed onto HM-N and purified by flash chromatography (Si-PPC, dichloromethane:MeOH, gradient 100:0 to 85:15) followed by reversed phase HPLC (Phenomenex Luna 5 phenyl/hexyl, 0.1% TFA in water on a gradient of acetonitrile 95:5 to 50:50) to afford the title compound as a yellow solid (16 mg, 27%). LCMS (method A): RT=5.75 min, M+H+=471. 1H NMR (d4-MeOH, 400 MHz) 8.55 (s, 1H), 8.24 (d, J=6.2 Hz, 1H), 7.52 (d, J=6.2 Hz, 1H), 7.39 (dd, J=10.8 Hz, 1.8 Hz, 1H), 7.14-7.19 (m, 1H), 6.35 (dd, J=8.7 Hz, 8.7 Hz, 1H), 3.94 (s, 3H), 3.88 (t, J=4.5 Hz, 2H), 3.64 (t, J=4.5 Hz, 2H).

reactant | 3-(2-fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide | 0.13 mmol, 64 mg | C(=C)OCCONC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)I)F | C19H18FIN4O3
reactant | HCl | 1N, 0.39 mL | Cl | ClH
reactant | Sodium hydrogen carbonate | 0.39 mmol, 32 mg | C(O)([O-])=O.[Na+]
solvent | MeOH | 4.0 ml | CO | CH4O
product | 3-(2-Fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-hydroxy-ethoxy)-amide | 16 mg, 27% | OCCONC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)I)F | C17H16FIN4O3
